US05877197
N-[(1-Methylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-fluoropentanoic acid, t-butyl ester
To a solution of N-[(1-methylindole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester (51 mg, 0.11 mmol) in DMSO (1 mL) was added Dess-Martin periodinane (110 mg). After 30 min at room temperature the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, dried and concentrated to a white solid. Trituration with diethyl ether and collection of the solid afforded the title compound as a white powder (25 mg, 49% yield). TLC (MeOH:CH2Cl2, 5:95): Rf =0.48.

reactant | N-[(1-methylindole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-fluoropentanoic acid, t-butyl ester | 0.11 mmol, 51 mg | CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)O | C24H34FN3O5
reactant | Dess-Martin periodinane | 110 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | N-[(1-Methylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-fluoropentanoic acid, t-butyl ester | 25 mg, 49% yield | CN1C(=CC2=CC=CC=C12)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)=O | C24H32FN3O5
